* E:\LTspiceFile\ElectronicTechnologyExperiments\2\1\SourceWaveFit.asc
* Generated by LTspice 24.1.9 for Windows.
Vin1 IN1 0 AC 1
X§U1 N002 N001 +V -V OUT AD712
R1 N001 OUT 5.7k
R2 N003 IN1 20k
R3 N001 0 10k
V1 +V 0 15
V2 -V 0 -15
R4 N002 N003 20k
C2 N002 0 0.2µ
C3 N003 OUT 0.2µ
Vin2 IN2 0 AC 1
X§U2 N005 N004 +V -V OUT2 AD712
R5 N004 OUT2 5.7k
R6 OUT2 N006 10k
R7 N004 0 10k
R8 0 N005 10k
C1 N005 N006 0.1µ
C4 N006 IN2 0.1µ
Vin3 IN3 0 AC 1
X§U3 N008 N007 +V -V OUT3 AD712
R9 N007 OUT3 5.7k
R10 N009 IN3 20k
R11 N007 0 10k
R12 N008 N009 20k
C6 N009 0 0.2µ
C7 N008 N010 0.1µ
C8 N010 IN3 0.1µ
R13 OUT3 N010 10k
.ac lin 1000 1 500
.lib ADI1.lib
.backanno
.end
