* G:\LTspiceFile\ElectronicTechnologyExperiments\2\2\TriangleAndSawtoothWaveGenerationCircuits.asc
* Generated by LTspice 24.1.9 for Windows.
V1 +V 0 15
V2 -V 0 -15
X§U1 N004 0 +V -V N002 AD712
R3 N003 N002 5.1k
R4 N003 N004 10k
D1 NC_01 P001 UDZV6_2B
D2 0 P001 UDZV6_2B
D7 N003 P002 UDZV6_2B
D8 0 P002 UDZV6_2B
R1 N004 OUT 10k
X§U3 N005 N001 +V -V OUT AD712
X§U4 NC_02 N006 +V -V NC_03 AD712
C1 OUT N001 0.22µ
R2 N001 N003 10k
R5 N005 0 10k
D9 P003 N009 1N4148
D10 N009 P004 1N4148
R12 N007 P003 50k
R13 N007 P004 50k
X§U2 N010 0 +V -V N008 AD712
R6 N009 N008 5.1k
R7 N009 N010 10k
D3 NC_04 P005 UDZV6_2B
D4 0 P005 UDZV6_2B
D5 N009 P006 UDZV6_2B
D6 0 P006 UDZV6_2B
R8 N010 OUT2 10k
X§U5 N011 N007 +V -V OUT2 AD712
C2 OUT2 N007 0.22µ
R10 N011 0 10k
.model D D
.lib C:\Users\34261\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 1 0.9 1m
.lib ADI1.lib
.backanno
.end
